* C:\Users\beagl\OneDrive\Documents\College Classes\ENGR357 - Engineering Electronics 2\engr357-receiver-design\spice\ensemble_BPF_Comparison.asc
R3 Butter-High N005 50
C9 P001 VRF2 150p
C10 N005 N003 330p
C11 N003 P002 150p
L7 P001 N003 390n
L8 N003 N005 180n
L9 P002 Butter-High 390n
C12 N005 0 0.1µ
R16 Butter-LOW N006 50
C13 P003 VRF1 470p
C14 N006 N004 470p
C15 N004 P004 470p
L10 P003 N004 620n
L11 N004 N006 560n
L12 P004 Butter-LOW 620n
C16 N006 0 0.1µ
R20 AM N012 50
C17 P005 VRF3 6.8n
C18 N012 N009 2.2n
C19 N009 P006 6.8n
L13 P005 N009 2.7µ
L14 N009 N012 9.1µ
L15 P006 AM 2.7µ
C20 N012 0 0.1µ
V7 N002 0 AC 1u
V8 P007 0 4.5
R2 P007 N001 10k
R4 N001 0 10k
C1 N001 0 1µ
R13 N002 N001 10k
V9 N008 0 AC 1u
V10 P008 0 4.5
R14 P008 N007 10k
R15 N007 0 10k
C2 N007 0 1µ
R17 N008 N007 10k
V11 N011 0 AC 1u
V12 P009 0 4.5
R18 P009 N010 10k
R19 N010 0 10k
C3 N010 0 1µ
R21 N011 N010 10k
R1 VRF1 N002 50
R5 VRF2 N008 50
R6 VRF3 N011 2
* Quick Butterworth BPF 16-30
* Quick Butterworth BPF 5-16
* Quick Butterworth BPF AM
.ac dec 1k 10k 100Meg
.backanno
.end
